US07205384B2
{1-[Imino-(4-methoxy-2,3,6-trimethyl-benzenesulfonylamino)-methyl]-2-oxo-piperidin-3-yl}-carbamic Acid tert-butyl Ester
To a solution of Boc-Arg(Mtr)-OH (6.81 g, 14 mmol) and pyridine (1.11 g, 14 mmol) in CH2Cl2 (50 mL) at −20° C. was added cyanuric fluoride (9.45 g, 70 mmol). After addition, the reaction mixture was stirred at −10° C. for 1.5 hours. The reaction mixture was quenched with an ice-H2O mixture and CH2Cl2 (50 mL), the resulting suspension was filtered through a pad of Celite and the two clear layers were separated. The aqueous layer was extracted with CH2Cl2 (50 mL)). The combined organic layer was washed with H2O (50 mL), and dried over MgSO4. After filtration and concentration, the crude oil was dissolved in CH2Cl2 and triturated in hexane. The title product was obtained as a white solid by vacuum filtration.

reactant | Boc-Arg(Mtr)-OH | 14 mmol, 6.81 g | N([C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=C(OC)C(C)=C1C)=N)C(=O)O)C(=O)OC(C)(C)C | C21H34N4O7S
reactant | pyridine | 14 mmol, 1.11 g | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 70 mmol, 9.45 g | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | {1-[Imino-(4-methoxy-2,3,6-trimethyl-benzenesulfonylamino)-methyl]-2-oxo-piperidin-3-yl}-carbamic Acid tert-butyl Ester | C(C)(C)(C)OC(NC1C(N(CCC1)C(NS(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)=N)=O)=O | C21H32N4O6S
